US05708008
To a suspension of 1.00 gm (2.87 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole dihydrochloride in 100 mL dichloromethane were added 2.5 mL (14.3 mMol) diisopropylethylamine followed by 1.06 mL (6.3 mMol) trifluoromethanesulfonic anhydride. After 20 minutes the reaction mixture was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography, eluting with dichloromethane containing 15% methanol, to give 5-(di(trifluoromethanesulfonyl))amino-3-(1-methylpiperidin-4-yl)-1H-indole. This material was converted to its hydrochloride salt and was crystallized from acetonitrile to give 0.34 gm (22.3%) of the title compound.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole dihydrochloride | 2.87 mMol, 1.00 gm | Cl.Cl.NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C
reactant | diisopropylethylamine | 14.3 mMol, 2.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 6.3 mMol, 1.06 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-(di(trifluoromethanesulfonyl))amino-3-(1-methylpiperidin-4-yl)-1H-indole | FC(S(=O)(=O)N(C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C)S(=O)(=O)C(F)(F)F)(F)F | C16H17F6N3O4S2
